US09085576B2
Synthesis of (1R,5S,6R)-5-(difluoromethyl)-5-(2-fluoro-5-(5-(prop-1-yn-1-yl)pyridin-3-yl)phenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine
A microwave vial was charged with mixture of potassium phosphate (0.19 g, 0.90 mmol), (1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (16f-B, 0.10 g, 0.30 mmol), (5-(prop-1-yn-1-yl)pyridin-3-yl)boronic acid (0.12 g, 0.75 mmol) and 1,1-bis[(di-t-butyl-p-methylaminophenyl]palladium(II) chloride (10.56 mg, 0.015 mmol) in dioxane/water (2.0/0.5 mL). The reaction mixture was heated to 110° C. for 30 min in the microwave. The reaction mixture was then diluted with water and extracted with DCM three times. The combined organic extracts were washed with brine and dried over sodium sulfate. The filtrate was concentrated in vacuo and the crude material was purified by silica gel chromatography (0-100% EtOAc-DCM) to obtain the title compound as a white solid (82.3 mg, 74% yield). MS m/z=372 [M+H]+. Calculated for C20H16F3N3O: 371.4.

reactant | potassium phosphate | 0.90 mmol, 0.19 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 0.30 mmol, 0.10 g | BrC=1C=CC(=C(C1)[C@]1(N=C(O[C@@H]2C[C@H]12)N)C(F)F)F | C12H10BrF3N2O
reactant | (5-(prop-1-yn-1-yl)pyridin-3-yl)boronic acid | 0.75 mmol, 0.12 g | C(#CC)C=1C=C(C=NC1)B(O)O | C8H8BNO2
solvent | dioxane water | 0.5 mL | O1CCOCC1.O
solvent | water | O | H2O
catalyst | (di-t-butyl-p-methylaminophenyl]palladium(II) chloride | 0.015 mmol, 10.56 mg | C(C)(C)(C)C=1C(=C(C=CC1NC)[Pd]Cl)C(C)(C)C
product | (1R,5S,6R)-5-(difluoromethyl)-5-(2-fluoro-5-(5-(prop-1-yn-1-yl)pyridin-3-yl)phenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 82.3 mg, 74% yield | FC([C@@]1(N=C(O[C@@H]2C[C@H]12)N)C1=C(C=CC(=C1)C=1C=NC=C(C1)C#CC)F)F | C20H16F3N3O
